US06080750
2-Amino-6-chloro-4-[[(3-hydroxymethyloxetan-3-yl)methyl]amino]-pyrimidine (compound No. 26)
A mixture of 3-aminomethyl-3-hydroxymethyloxetane (1.17 g, 0.01 mol), 2-amino-4,6-dichloropyrimidine (1.64 g, 0.01 mol), ethanol (40 ml) and triethylamine (4 ml) was refluxed for one day. The solvent was distilled away under reduced pressure and ethyl acetate was added to the residue. The mixture was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled away under reduced pressure and the residue was purified by silica gel column chromatography (chloroform:methanol=20:1, later 10:1) to give colorless prism crystals (0.8 g, 32.8%), m.p. 185-186° C. (acetone).

reactant | 3-aminomethyl-3-hydroxymethyloxetane | 0.01 mol, 1.17 g | NCC1(COC1)CO | C5H11NO2
reactant | 2-amino-4,6-dichloropyrimidine | 0.01 mol, 1.64 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | ethanol | 40 ml | C(C)O | C2H6O
solvent | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
product | 2-Amino-6-chloro-4-[[(3-hydroxymethyloxetan-3-yl)methyl]amino]-pyrimidine | 0.8 g, 32.8% | NC1=NC(=CC(=N1)NCC1(COC1)CO)Cl | C9H13ClN4O2
